US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2,6-dichlorophenyl)pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with 2,6-dichlorophenylacetamide. Yield 52.2 mg, 13.0%. 1H NMR (DMSO-d6) 400 MHz δ: 11.82 (s, 1H), 7.34 (m, 3H), 7.10 (d, 1H, J=7.2 Hz), 6.87 (m, 2H), 5.16 (d, 1H J=7.6 Hz), 5.10 (d, 1H, J=7.6 Hz), 2.91 (t, 2H, J=6.0 Hz) 2.10 (m, 2H).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | 2,6-dichlorophenylacetamide | ClC1=C(C(=CC=C1)Cl)CC(=O)N | C8H7Cl2NO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2,6-dichlorophenyl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=C(C=CC=C2Cl)Cl)=O)=O | C21H16Cl2N2O2
